US04496584
Synthesis of 6-amidino-2-naphthyl 2-cyclopenteneacetate (Compound No. 13):
To a solution of 2.2 g of 2-cyclopentene-1-acetic acid in 50 ml of anhydrous pyridine, while being cooled in ice and stirred, was added 4.4 g of DCC. After 30 minutes, 5.0 g of 6-amidino-2-naphthol methanesulfonate was added to the mixture and stirred for 24 hours at room temperature. The precipitate formed by the addition of ethyl ether was collected by filtration, admixed with dimethylformamide, and filtered to remove the insolubles. Ethyl ether was added to the filtrate and the precipitate which was formed was collected by filtration and recrystallized from a dimethyl formamide-ethyl ether mixture to yield 2.1 g of a white powder of 6-amidino-2-naphthyl 2-cyclopenteneacetate methanesulfonate.

reactant | 2-cyclopentene-1-acetic acid | 2.2 g | C1(C=CCC1)CC(=O)O | C7H10O2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl 2-cyclopenteneacetate | 2.1 g | C1(C=CCC1)CC(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C18H18N2O2
